US07691898B2
(1) {2-[3-(4-Ethoxybenzyl)-4-hydroxyphenyl]-2-oxoethyl}phosphonic acid diethylester
To a solution of dimethyl methylphosphonate (0.68 mL) in THF (3.1 mL) was added 2.44 M n-butyllithium/n-hexane solution (2.5 mL) at −78° C., and the reaction mixture was stirred for 0.5 hr at −78° C. A solution of 3-(4-ethoxybenzyl)-4-methoxymethyloxybenzoic acid methylester (1.00 g) in THF (3.0 mL) was added to the mixture at −78° C., and the reaction mixture was stirred for 0.5 hr at −78° C. The reaction was quenched by the addition of saturated aqueous ammonium chloride and extracted with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=4/1) to give the title compound (1.00 g) as a colorless oil.

reactant | dimethyl methylphosphonate | 0.68 mL | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyllithium n-hexane | 2.44 M, 2.5 mL | C(CCC)[Li].CCCCCC
reactant | 3-(4-ethoxybenzyl)-4-methoxymethyloxybenzoic acid methylester | 1.00 g | COC(C1=CC(=C(C=C1)OCOC)CC1=CC=C(C=C1)OCC)=O | C19H22O5
solvent | THF | 3.1 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | {2-[3-(4-Ethoxybenzyl)-4-hydroxyphenyl]-2-oxoethyl}phosphonic acid diethylester | 1.00 g | C(C)OP(OCC)(=O)CC(=O)C1=CC(=C(C=C1)O)CC1=CC=C(C=C1)OCC | C21H27O6P
